US05854245
To a 50 ml round bottomed flask with a stirring bar was added n-butyl 5-(4-(1,1-dimethylethoxycarbonyl)-piperazin-1-yl)-thiophene-2-carboxylate (490 mg, 1.33 mmol) and 4.2 mL of a 2.5M NaOH solution in 3:1 MeOH/H2O. THF (2 mL) was added to keep the reaction homogeneous. The reaction was stirred at room temperature and followed by HPLC. After 2 days, the reaction was concentrated in vacuo, acidified with 10% citric acid and extracted with EtOAc (3×). The combined organics were washed with water (1×), brine (1×), dried (Na2SO4), filtered, and the solvents removed in vacuo. The product was azeotroped with benzene (3×) and dried in vacuo over 2 days to yield 5-(4-(1,1-dimethylethoxycarbonyl)-piperazin-1-yl)-thiophene-2-carboxylic acid as a dark green solid.

reactant | n-butyl 5-(4-(1,1-dimethylethoxycarbonyl)-piperazin-1-yl)-thiophene-2-carboxylate | 1.33 mmol, 490 mg | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(S1)C(=O)OCCCC)C | C18H28N2O4S
reactant | NaOH | 2.5M | [OH-].[Na+]
reactant | MeOH H2O | CO.O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(4-(1,1-dimethylethoxycarbonyl)-piperazin-1-yl)-thiophene-2-carboxylic acid | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(S1)C(=O)O)C | C14H20N2O4S
